US04092313
A 5.8 g quantity of metal sodium is dissolved in a mixture of 100 ml of benzyl alcohol and 200 ml of toluene, 16.7 g of 2,4-dichloro-5-fluoropyrimidine is added to the solution, and the mixture is refluxed for 4 hours. The resulting reaction mixture is washed with water, dried and distilled at reduced pressure to give 27.0 g of colorless oily 2,4-di(benzyloxy)-5-fluoropyrimidine in a yield of 87.1%, b.p. 205°-206° C/3-4 mm Hg and m.p. 48.5°-49.5° C.

reactant | sodium | [Na] | Na
reactant | 2,4-dichloro-5-fluoropyrimidine | 16.7 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | benzyl alcohol | 100 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4-di(benzyloxy)-5-fluoropyrimidine | 27.0 g, yield of 87.1% | C(C1=CC=CC=C1)OC1=NC=C(C(=N1)OCC1=CC=CC=C1)F | C18H15FN2O2
